US07754728B2
2-(2-Methoxyethoxy)adenine
After sodium (3.00 g, 130 mmol) was dissolved in 2-methoxyethanol (150 ml), thereto was added 2-chloroadenine (3.00 g, 17.69 mmol) and the mixture was refluxed for 8 hours. After the mixture was allowed to cool, water (400 ml) was added thereto and neutralized with concentrated hydrochloric acid. The resulting precipitate was filtered and washed with methanol to give the captioned compound (3.06 g, 14.48 mmol, yield 73%) as a white solid.

reactant | sodium | 130 mmol, 3.00 g | [Na] | Na
reactant | 2-chloroadenine | 17.69 mmol, 3.00 g | ClC1=NC(=C2NC=NC2=N1)N | C5H4ClN5
reactant | water | 400 ml | O | H2O
reactant | hydrochloric acid | Cl | ClH
reactant | 2-methoxyethanol | 150 ml | COCCO | C3H8O2
product | 2-(2-Methoxyethoxy)adenine | 14.48 mmol, 3.06 g, yield 73% | COCCOC1=NC(=C2NC=NC2=N1)N | C8H11N5O2
